US05358948
4-Methyl-3-pyridinylboronic acid
A solution of 3-bromo-4-methylpyridine (5.96 g) in ether (20 ml) was added dropwise to n-butyl lithium in hexane (1.57M;22 ml) in ether (100 ml) at -78° under nitrogen. After 10 min stirring at -78° triisopropylborate (10.2 ml) was added during 2 min. The mixture was stirred at -78° for 30min and allowed to warm to room temperature during 2 h. Water (30 ml) was added and the organic layer was extracted with aqueous sodium hydroxide (0.5N; 33 ml). The combined aqueous layers were washed with ether (30 ml) and then acidified to pH6 with hydrochloric acid (2N). The mixture was stirred until the resulting gum had solidified. Filtration gave the title compound as a white solid (1.5 g).

reactant | 3-bromo-4-methylpyridine | 5.96 g | BrC=1C=NC=CC1C | C6H6BrN
reactant | n-butyl lithium | C(CCC)[Li]
reactant | triisopropylborate | 10.2 ml | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
reactant | Water | 30 ml | O | H2O
solvent | ether | 20 ml | CCOCC | C4H10O
solvent | hexane | 1.57M, 22 ml | CCCCCC | C6H14
solvent | ether | 100 ml | CCOCC | C4H10O
product | 4-Methyl-3-pyridinylboronic acid | 1.5 g | CC1=C(C=NC=C1)B(O)O | C6H8BNO2
